US04889851
A solution of 6-cyclohexylmethoxy-2-(4-cyclohexylmethoxycarbonylphenyl)-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (0.12 g) in a mixture of conc. hydrochloric acid (1 ml), water (2 ml) and 1,4-dioxane (8 ml) was refluxed overnight. The mixture was concentrated in vacuo. The residue was treated with a mixture of ethyl acetate and aqueous 1N sodium hydroxide solution. The precipitates were collected by filtration, washed with ethyl acetate and then dissolved in a mixture of ethyl acetate and aqueous 1N hydrochloric acid. The organic layer was washed with water, dried, and evaporated under reduced pressure. The residue was recrystallized from ethanol to give 2 -(4-carboxyphenyl)-6-cyclohexylmethoxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide as colorless crystals.

reactant | 6-cyclohexylmethoxy-2-(4-cyclohexylmethoxycarbonylphenyl)-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 0.12 g | C1(CCCCC1)COC=1C=CC2=C(N(C(N(S2(=O)=O)C2=CC=C(C=C2)C(=O)OCC2CCCCC2)=O)C)C1 | C29H36N2O6S
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | water | 2 ml | O | H2O
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | 2 -(4-carboxyphenyl)-6-cyclohexylmethoxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | C(=O)(O)C1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)OCC2CCCCC2)(=O)=O | C22H24N2O6S
